US06498165B1
Step C: 2-[1-(3-Nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-(2-methylphenyl)pyrimidine
The title compound was prepared from 2-[1-(3-nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-chloropyrimidine and 2-methylphenylboronic acid according to the precedure described in EXAMPLE 306, Step C and using [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) as catalyst. Mass spectrum (CH3CN/TFA/NH4O2CH/ESI) 451.3 (M+1).

reactant | 2-[1-(3-nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-chloropyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)Cl | C19H15ClN6O2
reactant | 2-methylphenylboronic acid | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | CH3CN TFA | CC#N.C(=O)(C(F)(F)F)O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[1-(3-Nitrophenyl)ethylamino]-4-[benzimidazol-1-yl]-6-(2-methylphenyl)pyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)C2=C(C=CC=C2)C | C26H22N6O2
